### ISSUE TITLE
Kernel "application type mismatch" in `grind`

### ISSUE THREAD

**Issue by datokrat** [leanprover/lean4#10232]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

I ran into a situation where `grind` fails with a kernel error.

### Context

This issue occurred to me while working on a proof using MPL and the polymorphic ranges.

### Steps to Reproduce

Run this MWE:

```lean
def U {shape : Std.PRange.RangeShape} (b : Std.PRange.Bound shape.upper α) : Unit := sorry

structure T (l : α) : Type u where

def mysorry : α := sorry -- instead of `mysorry`, we could also use `sorry`.

/--
error: (kernel) application type mismatch
  eq_false_of_decide (eagerReduce (Eq.refl false))
argument has type
  false = false
but function has type
  decide (1 = 1) = false → (1 = 1) = False
-/
#guard_msgs in
example (inv : (T (U (shape := ⟨.closed, .closed⟩) 1)) → Prop)
    (h : inv mysorry) : True := by
  grind
```

**Expected behavior:**

In this particular case, `grind` should succeed. In general, `grind` should not cause kernel errors.

**Actual behavior:**

`grind` causes a kernel error that is presented to the user.

### Versions

```
Lean 4.24.0-nightly-2025-09-03
Target: x86_64-unknown-linux-gnu
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
